US05705499
b) 2-Amino-5,11-dihydro-11-ethyl-8-[2-(4-pyridyl)ethyl]-5-methyl-6H-dipyrido[3,2-b:2',3'-e][1,4]diazepin-6-one
2-(4-methoxybenzylamino)-5,11-dihydro-11-ethyl-8-[2-(4-pyridyl)ethyl]-5-methyl-6H-dipyrido[3,2-b:2',3'-e][1,4]diazepin-6-one (0.09 g, 0.18 mmol) was treated for 20 h with trifluoroacetic acid (1 mL) under argon. After removal of excess TFA, the residue was stirred in dilute ammonium hydroxide for 5 hours. The product was extracted with ethyl acetate and purified by flash chromatography (elution with methanol-dichloromethane) to give the title compound (48 mg, 71%), m.p. 94°-97° C.

reactant | 2-(4-methoxybenzylamino)-5,11-dihydro-11-ethyl-8-[2-(4-pyridyl)ethyl]-5-methyl-6H-dipyrido[3,2-b:2',3'-e][1,4]diazepin-6-one | 0.18 mmol, 0.09 g | COC1=CC=C(CNC=2C=CC=3N(C(C4=C(N(C3N2)CC)N=CC(=C4)CCC4=CC=NC=C4)=O)C)C=C1 | C29H30N6O2
reactant | trifluoroacetic acid | 1 mL | FC(C(=O)O)(F)F | C2HF3O2
product | 2-Amino-5,11-dihydro-11-ethyl-8-[2-(4-pyridyl)ethyl]-5-methyl-6H-dipyrido[3,2-b:2',3'-e][1,4]diazepin-6-one | 48 mg, 71% | NC=1C=CC=2N(C(C3=C(N(C2N1)CC)N=CC(=C3)CCC3=CC=NC=C3)=O)C | C21H22N6O
